US05328794
To the above solvent, a mixture of 200 g of isobutyl methacrylate, 10 g of glycidyl acrylate and 2 g of benzoyl peroxide was added dropwise at a constant speed over a period of 1 hour, followed by stirring at 95° C. for 3 hours to complete the polymerization reaction. Thus, isobutyl methacrylate - glycidyl acrylate copolymer was obtained.

reactant | isobutyl methacrylate | 200 g | C(C(=C)C)(=O)OCC(C)C | C8H14O2
reactant | glycidyl acrylate | 10 g | C(C=C)(=O)OCC1CO1 | C6H8O3
reactant | benzoyl peroxide | 2 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | isobutyl methacrylate - glycidyl acrylate | C(C1CO1)OC(C=C)=O.C(C(=C)C)(=O)OCC(C)C | InChI=1S/C8H14O2.C6H8O3/c1-6(2)5-10-8(9)7(3)4;1-2-6(7)9-4-5-3-8-5/h6H,3,5H2,1-2,4H3;2,5H,1,3-4H2
